US08258130B2
To a solution of 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one (1.518 g, 9.72 mmol) in a mixture of 2-propanol (8.8 mL) and water (0.22 mL) is added methyl hydrazine (0.79 mL, 14.6 mmol). The reaction mixture is heated to reflux under N2 for 4 h, and then a solution of oxalic acid (0.273 g, 2.92 mmol) in 2-propanol (4 mL) is added. The resulting precipitate is removed by filtration. The filtrate is concentrated in vacuo and the residue dissolved in 2-propanol (25 mL). The solution is chilled and Et2O is added. The precipitate is collected by filtration and dried to afford N-(2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide (0.96 g, 54%) as a crystalline solid. MS: 185 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 8.28 (s, 1H), 4.18 (s, 2H), 3.28 (s, 3H), 2.02 (s, 3H), 1.95 (s, 2H).

reactant | 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one | 9.72 mmol, 1.518 g | CC1=NN(C(O1)=O)CC(C)=O | C6H8N2O3
reactant | methyl hydrazine | 14.6 mmol, 0.79 mL | CNN | CH6N2
reactant | oxalic acid | 2.92 mmol, 0.273 g | C(C(=O)O)(=O)O | C2H2O4
solvent | 2-propanol | 8.8 mL | CC(C)O | C3H8O
solvent | water | 0.22 mL | O | H2O
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
product | N-(2,6-dimethyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide | 0.96 g, 54% | CN1N=C(CN(C1=O)NC(C)=O)C | C7H12N4O2
